US04166856
N-Cyano-N'-(4-hydroxybutyl)-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine
4-Aminobutanol (2.7 g) and N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea (4.05 g) were refluxed in ethanol (30 ml) for 4 hours. The reaction mixture was evaporated to yield an oil which was chromatographed on a silica gel column and eluted with chloroform and chloroform/methanol (20:1) to give the title compound as a colourless oil (1.8 g).

reactant | 4-Aminobutanol | 2.7 g | NCCCCO | C4H11NO
reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea | 4.05 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-Cyano-N'-(4-hydroxybutyl)-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | 1.8 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCCCO | C13H22N6OS
